US06949536B2
4-(Methylsulfonyl)-2-(trifluoromethyl)aniline (Step 2)
The subtitle compound was prepared according to the procedure of Example 135 using 4-(methylsulfonyl)-2-(trifluoromethyl)nitrobenzene instead of 4-methylsulfonyl)-3-(trifluoromethyl)nitrobenzene in step 2.

reactant | 4-(methylsulfonyl)-2-(trifluoromethyl)nitrobenzene | CS(=O)(=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO4S
reactant | 3-(trifluoromethyl)nitrobenzene | FC(C=1C=C(C=CC1)[N+](=O)[O-])(F)F | C7H4F3NO2
product | 4-(Methylsulfonyl)-2-(trifluoromethyl)aniline | CS(=O)(=O)C1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NO2S
